US04313945
A suspension of 100 g of (2R)-serine in 1 l of water is dissolved by adding slowly 100 g of solid, anhydrous sodium carbonate, then 2 l of dioxan and 346 g of di-tert.-butyl pyrocarbonate are added and the mixture is stirred for 30 minutes at 20°. The dioxan is evaporated off in vacuo and the aqueous phase is extracted at 0° and a pH of 2.0 with ethyl acetate. 236.7 g of amorphous, crude (2R)-N-BOC-serine containing approximately 195 g of pure product are obtained. By triturating with petroleum ether and cooling, the pure compound can be obtained; m.p. 78°-83° (decomposition).

reactant | (2R)-serine | 100 g | N[C@H](CO)C(=O)O | C3H7NO3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | dioxan | 2 l | O1CCOCC1 | C4H8O2
reactant | di-tert.-butyl pyrocarbonate | 346 g | C(OC(C)(C)C)(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | water | 1 l | O | H2O
product | (2R)-N-BOC-serine | approximately 195 g | C(=O)(OC(C)(C)C)N[C@H](CO)C(=O)O | C8H15NO5
